US07504382B2
4-Nitro-Butyramide
To a solution of methyl 4-nitrobutyrate (8.83 g, 60 mmol) in methanol (20 mL) at 0° C. was added a solution of ammonia in methanol (7N, 30 mL). The solution was then warmed to room temperature and stirred at for 72 h. The solvent was evaporated and the residue was re-crystallized from ethyl acetate to give the title product (6.2 g, 78%). 1H NMR (acetone-d6): 6.86 (bs, NH, 1H), 6.28 (bs, NH, 1H), 4.59 (t, J=6.9 Hz, 2H), 2.36-2.30 (m, 2H), 2.28-2.20 (m, 2H).

reactant | methyl 4-nitrobutyrate | 60 mmol, 8.83 g | [N+](=O)([O-])CCCC(=O)OC | C5H9NO4
reactant | ammonia | N | H3N
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 7N, 30 mL | CO | CH4O
product | 4-Nitro-Butyramide | 6.2 g, 78% | [N+](=O)([O-])CCCC(=O)N | C4H8N2O3
